data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH2:4]1[N:17]2[CH2:5][CH2:21][N:8]([CH2:40][c:12]3[cH:23][cH:27][cH:36][cH:28][cH:24]3)[c:31]3[c:15]2[c:30]([cH:18][n:16][cH:19]3)[N:7]([CH2:39][c:11]2[cH:22][cH:26][cH:35][cH:29][cH:25]2)[CH2:20]1.[N+:1]([c:10]1[cH:2][n:9][c:14]2[c:32]([n+:6]([O-:3])[o:13][n:38]2)[cH:33]1)(=[O:34])[O-:37]>>[N+:1](=[C:10]1[CH:2]=[N:9][c:14]2[c:32]([n+:6]([O-:3])[o:13][n:38]2)[CH:33]1[N:16]1[CH:18]=[C:30]2[N:7]([CH2:39][c:11]3[cH:22][cH:26][cH:35][cH:29][cH:25]3)[CH2:20][CH2:4][N+:17]3=[C:15]2[C:31](=[CH:19]1)[N:8]([CH2:40][c:12]1[cH:23][cH:27][cH:36][cH:28][cH:24]1)[CH2:21][CH2:5]3)([O-:34])[O-:37]", "epd": [["LP-/Pi+", [17], [15, 17]], ["Pi-/Pi+", [30, 15], [18, 30]], ["Pi-/Sigma+", [16, 18], [16, 33]], ["Pi-/Pi+", [33, 10], [10, 1]], ["Pi-/LP+", [1, 34], [34]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:16])([O:28][CH2:4][c:13]1[cH:18][cH:7][cH:11][cH:10][cH:21]1)[N:31]=[N:30][C:2](=[O:17])[O:29][CH2:5][c:14]1[cH:19][cH:8][cH:12][cH:9][cH:20]1.[CH3:3][C:15](=[C:6]=[N-:22])[c:23]1[cH:24][cH:26][cH:32][cH:27][cH:25]1>>[C:1]([O-:16])([O:28][CH2:4][c:13]1[cH:18][cH:7][cH:11][cH:10][cH:21]1)=[N:31][N:30]([C:2](=[O:17])[O:29][CH2:5][c:14]1[cH:19][cH:8][cH:12][cH:9][cH:20]1)[C:15]([CH3:3])([C:6]#[N:22])[c:23]1[cH:24][cH:26][cH:32][cH:27][cH:25]1", "epd": [["LP-/Pi+", [22], [6, 22]], ["Pi-/Sigma+", [15, 6], [15, 30]], ["Pi-/Pi+", [30, 31], [31, 1]], ["Pi-/LP+", [1, 16], [16]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[S:3]([c:7]1[cH:17][cH:11][cH:9][cH:14][cH:20]1)([C:16]([S:4]([c:8]1[cH:18][cH:12][cH:10][cH:13][cH:19]1)(=[O:21])=[O:22])=[CH2:6])(=[O:23])=[O:24].[n:1]1[cH:15][nH:2][cH:5][cH:25]1>>[n:1]1([CH2:6][C-:16]([S:3]([c:7]2[cH:17][cH:11][cH:9][cH:14][cH:20]2)(=[O:23])=[O:24])[S:4]([c:8]2[cH:18][cH:12][cH:10][cH:13][cH:19]2)(=[O:21])=[O:22])[cH:15][nH+:2][cH:5][cH:25]1", "epd": [["LP-/Pi+", [2], [15, 2]], ["Pi-/Sigma+", [1, 15], [1, 6]], ["Pi-/LP+", [6, 16], [16]]]}
{"reaction_name": "π-Nucleophile capture of a preformed localized carbocation", "rsmi": "[cH:2]1[c:10]([CH+:24][c:11]2[cH:3][c:15]([F:20])[cH:23][c:16]([F:21])[cH:4]2)[cH:5][c:13]([F:18])[cH:22][c:14]1[F:19].[s:1]1[cH:6][cH:9][c:7]([O:17][CH3:8])[cH:12]1>>[S:1]1[CH:6]=[CH:9][C:7](=[O+:17][CH3:8])[CH:12]1[CH:24]([c:10]1[cH:2][c:14]([F:19])[cH:22][c:13]([F:18])[cH:5]1)[c:11]1[cH:3][c:15]([F:20])[cH:23][c:16]([F:21])[cH:4]1", "epd": [["LP-/Pi+", [17], [7, 17]], ["Pi-/Sigma+", [12, 7], [12, 24]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:1]12[c:4]([cH:16][cH:14][cH:28][cH:9]1)-[c:5]1[c:2]([cH:10][cH:29][cH:15][cH:17]1)[N+:26]2=[CH:3][CH3:21].[cH:6]1[cH:13][cH:12][c:19]2[c:11]([cH:18]1)[CH2:27][CH:22]=[C:23]2[N:20]1[CH2:24][CH2:8][CH2:7][CH2:25]1>>[c:1]12[c:4]([c:5]3[c:2]([cH:10][cH:29][cH:15][cH:17]3)[n:26]1[CH:3]([CH3:21])[CH:22]1[C:23](=[N+:20]3[CH2:24][CH2:8][CH2:7][CH2:25]3)[c:19]3[c:11]([cH:18][cH:6][cH:13][cH:12]3)[CH2:27]1)[cH:16][cH:14][cH:28][cH:9]2", "epd": [["LP-/Pi+", [20], [23, 20]], ["Pi-/Sigma+", [22, 23], [22, 3]], ["Pi-/LP+", [3, 26], [26]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[CH3:2][CH:23]=[CH:13][CH2:26][B-:15]1([c:43]2[cH:39][c:41]([C:19]([F:31])([F:32])[F:33])[cH:4][c:42]([C:20]([F:34])([F:35])[F:36])[cH:40]2)[O:37][C:5]([CH3:8])([CH3:9])[C:6]([CH3:10])([CH3:11])[O:38]1.[cH:1]1[cH:3][cH:22][cH:12][c:14]2[c:7]1[N+:28]([CH3:17])=[CH:21][C:18]2=[CH:16][c:27]1[cH:24][cH:29][cH:44][cH:30][cH:25]1>>[cH:1]1[cH:3][cH:22][cH:12][c:14]2[c:7]1[n:28]([CH3:17])[cH:21][c:18]2[CH:16]([CH:23]([CH3:2])[CH+:13][CH2:26][B-:15]1([c:43]2[cH:39][c:41]([C:19]([F:31])([F:32])[F:33])[cH:4][c:42]([C:20]([F:34])([F:35])[F:36])[cH:40]2)[O:37][C:5]([CH3:8])([CH3:9])[C:6]([CH3:10])([CH3:11])[O:38]1)[c:27]1[cH:24][cH:29][cH:44][cH:30][cH:25]1", "epd": [["Pi-/Sigma+", [23, 13], [23, 16]], ["Pi-/Pi+", [16, 18], [18, 21]], ["Pi-/LP+", [21, 28], [28]]]}
{"reaction_name": "Dearomatizing addition to a benzopyrylium / flavylium ion", "rsmi": "[S:1]([c:3]1[cH:23][cH:17][cH:9][cH:18][cH:24]1)([O-:5])=[O:22].[cH:2]1[cH:11][cH:4][c:6]2[c:12]([o+:7][c:10](-[c:20]3[cH:15][cH:13][cH:21][cH:14][cH:16]3)[cH:8][cH:19]2)[cH:25]1>>[S+:1]([c:3]1[cH:23][cH:17][cH:9][cH:18][cH:24]1)([O-:5])([CH:19]1[c:6]2[cH:4][cH:11][cH:2][cH:25][c:12]2[O:7][C:10]([c:20]2[cH:15][cH:13][cH:21][cH:14][cH:16]2)=[CH:8]1)=[O:22]", "epd": [["LP-/Sigma+", [1], [1, 19]], ["Pi-/Pi+", [19, 8], [8, 10]], ["Pi-/LP+", [10, 7], [7]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:4](=[O+:16][CH3:15])[c:17]1[cH:10][cH:8][cH:5][cH:9][cH:11]1.[n:1]1([CH3:14])[c:2]([CH3:12])[cH:6][cH:7][c:3]1[CH3:13]>>[N+:1]1([CH3:14])=[C:2]([CH3:12])[CH:6]([CH:4]([O:16][CH3:15])[c:17]2[cH:10][cH:8][cH:5][cH:9][cH:11]2)[CH:7]=[C:3]1[CH3:13]", "epd": [["LP-/Pi+", [1], [2, 1]], ["Pi-/Sigma+", [6, 2], [6, 4]], ["Pi-/LP+", [4, 16], [16]]]}
